US08309580B2
(1) 2-methyl-4-{[3-methyl-1-(2-methyl-5-phenylfuran-3-yl)butyl]amino}benzoic acid
A mixture of 3-(1-chloro-3-methylbutyl)-2-methyl-5-phenylfuran (1.1 g), methyl 4-amino-2-methylbenzoate (1.1 g), sodium carbonate (0.6 g) and sodium iodide (2.4 g) in N,N-dimethylacetamide (20 mL) was stirred overnight at 80° C. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in methanol (5 mL) and tetrahydrofuran (5 mL), 2N lithium hydroxide (4 mL) was added, and the mixture was stirred at 70° C. for 6 hr. The reaction mixture was poured into water, and the mixture was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (10% ethyl acetate/hexane to 50% ethyl acetate/hexane) to give the title compound (0.5 g, 33%) as an oil.

reactant | 3-(1-chloro-3-methylbutyl)-2-methyl-5-phenylfuran | 1.1 g | ClC(CC(C)C)C1=C(OC(=C1)C1=CC=CC=C1)C | C16H19ClO
reactant | methyl 4-amino-2-methylbenzoate | 1.1 g | NC1=CC(=C(C(=O)OC)C=C1)C | C9H11NO2
reactant | sodium carbonate | 0.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 2.4 g | [I-].[Na+]
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 2-methyl-4-{[3-methyl-1-(2-methyl-5-phenylfuran-3-yl)butyl]amino}benzoic acid | 0.5 g, 33% | CC1=C(C(=O)O)C=CC(=C1)NC(CC(C)C)C1=C(OC(=C1)C1=CC=CC=C1)C | C24H27NO3
